US07622583B2
N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide
A mixture of N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.167 mmol) in 3 ml of 4M HCl in dioxane and 1 mL of water was refluxed for 3 hours. After cooling to rt the mixture was concentrated, diluted with water and then sodium bicarbonate was added until pH was 6. The mixture was extracted with ethyl acetate, dried and concentrated. The residue was further purified via flash column (30% ethyl acetate in hexane) to afford 50 mg of title compound as an off white solid. MS: (M+H)/z =555.3, (M+Na)/z=575.3.

reactant | N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.167 mmol, 100 mg | BrC1=C(C(=O)C2=NC=C(C=C2N(S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)COC)Cl)C=CC=C1 | C21H14BrCl2F3N2O4S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4M, 3 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide | 50 mg | BrC1=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl)C=CC=C1 | C19H10BrCl2F3N2O3S
